US09145435B2
[(2R,3R,4S,5R,6R)-3,4,5-triacetoxy-6-[3-[[4-[(E)-4-hydroxybut-1-enyl]phenyl]methyl]-4-methyl-indol-1-yl]tetrahydropyran-2-yl]methyl acetate
Combine [(2R,3R,4S,5R,6R)-3,4,5-triacetoxy-6-[3-[(4-bromophenyl)methyl]-4-methyl-indol-1-yl]tetrahydropyran-2-yl]methyl acetate (1.67 mmol), 3-buten-1-ol (5 mmol), triethylamine (35.8 mmol), and acetonitrile (10 mL) and purge with nitrogen for 10 minutes. To this mixture add palladium acetate (0.17 mmol) and tri-o-tolylphosphine (0.33 mmol). Heat this mixture at 80° C. for 2 hours, then cool to room temperature. Dilute with ethyl acetate (50 mL) and water (50 mL). Separate and wash the organic phase with brine (50 mL). Dry the organics over sodium sulfate, filter, and concentrate under reduced pressure. Purify by flash chromatography (40 g silica gel cartridge) eluting with 5-80% ethyl acetate in dichloromethane to yield the title compound as a tan foam (0.8 g, 1.2 mmol): MS (m/z): 622.0 (M+H).

reactant | [(2R,3R,4S,5R,6R)-3,4,5-triacetoxy-6-[3-[(4-bromophenyl)methyl]-4-methyl-indol-1-yl]tetrahydropyran-2-yl]methyl acetate | 1.67 mmol | C(C)(=O)OC[C@H]1O[C@H]([C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)OC(C)=O)N1C=C(C2=C(C=CC=C12)C)CC1=CC=C(C=C1)Br | C30H32BrNO9
reactant | 3-buten-1-ol | 5 mmol | C(CC=C)O | C4H8O
reactant | triethylamine | 35.8 mmol | C(C)N(CC)CC | C6H15N
reactant | tri-o-tolylphosphine | 0.33 mmol | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 50 mL | O | H2O
catalyst | palladium acetate | 0.17 mmol | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | [(2R,3R,4S,5R,6R)-3,4,5-triacetoxy-6-[3-[[4-[(E)-4-hydroxybut-1-enyl]phenyl]methyl]-4-methyl-indol-1-yl]tetrahydropyran-2-yl]methyl acetate | 1.2 mmol, 0.8 g | C(C)(=O)OC[C@H]1O[C@H]([C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)OC(C)=O)N1C=C(C2=C(C=CC=C12)C)CC1=CC=C(C=C1)\C=C\CCO | C34H39NO10
